US08124649B2
To 5-chloro-3-((5-(3-(4-methyl-1,4-diazepane-1-carbonyl)phenyl)furan-2-yl)methylene)indolin-2-one (24 mg) in methanol (4 ml) was added sodium borohydride (8 mg). The reaction was stirred at room temperature for 5 min. Water was added and the product was extracted with dichloromethane, dried with sodium sulfate and concentrated under vacuum to give 5-chloro-3-((5-(3-(4-methyl-1,4-diazepane-1-carbonyl)phenyl)furan-2-yl)methyl)indolin-2-one as orange powder. LCMS (ES): >95% pure, m/z 464 [M+1]+.

reactant | 5-chloro-3-((5-(3-(4-methyl-1,4-diazepane-1-carbonyl)phenyl)furan-2-yl)methylene)indolin-2-one | 24 mg | ClC=1C=C2C(C(NC2=CC1)=O)=CC=1OC(=CC1)C1=CC(=CC=C1)C(=O)N1CCN(CCC1)C | C26H24ClN3O3
reactant | sodium borohydride | 8 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 4 ml | CO | CH4O
product | 5-chloro-3-((5-(3-(4-methyl-1,4-diazepane-1-carbonyl)phenyl)furan-2-yl)methyl)indolin-2-one | ClC=1C=C2C(C(NC2=CC1)=O)CC=1OC(=CC1)C1=CC(=CC=C1)C(=O)N1CCN(CCC1)C | C26H26ClN3O3
